US08420640B2
A suspension of (4-(2-amino-4-nitrophenyl)piperazin-1-yl)(phenyl)methanone (0.4 g, 1.2 mmol), copper acetate (0.45 g, 2.5 mmol), potassium phosphate (0.26 g, 1.2 mmol), 18-C-6 (31 mg, 0.12 mmol), 4 Å molecular sieves (1.0 g) and phenylboronic acid and pyridine complex (1.4 g, 3.7 mmol) in 30 ml dry dichloromethane was stirred at room temperature overnight. The reaction was quenched with 20 ml water. The mixture was filtered and extracted with ethyl acetate (3×20 ml), followed by drying over anhydrous sodium sulfate. N-(2-(4-benzoylpiperazin-1-yl)-5-nitrophenyl)benzenamine (0.11 g, 20%) was obtained by flash column chromatograph (50% ethyl acetate in hexanes). 1H NMR (500 MHz, CDCl3) δ (ppm) 3.08 (s, br, 4H), 3.70 (s, br, 4H), 6.43 (s, 1H), 7.12-7.75 (m, 11H), 7.77 (d, J=2.4 Hz, 1H), 8.09 (s, 1H). 13C NMR (125 MHz, CDCl3): δ (ppm) 51.4, 108.9, 115.8, 120.2, 120.7, 123.8, 127.6, 128.5, 129.1, 130.3, 130.5, 135.8, 139.1, 141.1, 145.5, 145.9, 171.1.

reactant | (4-(2-amino-4-nitrophenyl)piperazin-1-yl)(phenyl)methanone | 1.2 mmol, 0.4 g | NC1=C(C=CC(=C1)[N+](=O)[O-])N1CCN(CC1)C(=O)C1=CC=CC=C1 | C17H18N4O3
reactant | potassium phosphate | 1.2 mmol, 0.26 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
catalyst | copper acetate | 2.5 mmol, 0.45 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | N-(2-(4-benzoylpiperazin-1-yl)-5-nitrophenyl)benzenamine | 0.11 g, 20% | C(C1=CC=CC=C1)(=O)N1CCN(CC1)C1=C(C=C(C=C1)[N+](=O)[O-])NC1=CC=CC=C1 | C23H22N4O3
